US08372823B2
Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (19 mg, 0.043 mmol) and pyrrolidine (0.005 mL, 0.07 mmol) were dissolved in dichloroethane (2 mL) and NaBH(OAc)3 (18 mg, 0.086 mmol) was added. The reaction solution was stirred under an atmosphere of Ar at ambient temperature for 3 h and then quenched with saturated aqueous NaHCO3. The crude product was extracted with EtOAc and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 2.5% Et3N/EtOAc) to furnish methyl 6-(2-(3-(4′-(pyrrolidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate as a cloudy oil (16 mg, 75%): 1H NMR (CDCl3, 600 MHz) δ 8.11 (d, 1H, J=7.7 Hz), 8.02 (d, 2H, J=9.0 Hz), 7.96 (t, 1H, J=7.8 Hz), 7.53-7.51 (m, 4H), 7.38 (d, 2H, J=8.0 Hz), 7.33 (d, 2H, J=8.0 Hz), 4.03 (s, 3H), 3.65 (s, 2H), 3.51 (t, 2H, J=7.6 Hz), 3.15 (t, 2H, J=7.6 Hz), 2.54 (s, 4H), 1.81-1.79 (m, 4H); 13C NMR (CDCl3, 150 MHz) δ 187.3, 165.1, 157.4, 152.4, 148.5, 146.5, 139.5, 139.2, 139.1, 138.3, 138.3, 129.3, 128.8, 128.0, 127.1, 126.8, 125.2, 123.3, 60.4, 54.2, 53.1, 40.6, 29.3, 23.4; HR ESI-TOF m/z 496.2233 (M+H+, C30H29N3O4, requires 496.2231).

reactant | Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.043 mmol, 19 mg | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C26H20N2O5
reactant | pyrrolidine | 0.07 mmol, 0.005 mL | N1CCCC1 | C4H9N
reactant | NaBH(OAc)3 | 0.086 mmol, 18 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | methyl 6-(2-(3-(4′-(pyrrolidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | N1(CCCC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C30H29N3O4
